US07683181B2
590 mg 2-Ethoxy-4-trifluoromethoxy-benzoic acid methyl ester was dissolved in a mixture of 30 ml tetrahydrofuran and 10 ml water. 367 mg lithium hydroxide were added and the reaction mixture stirred at 60° C. for two hours. The cooled reaction mixture was acidified by dropwise addition of concentrated hydrochloric acid, then the mixture was extracted three times with portions of 80 ml ethyl acetate. The combined organic layers were dried over MgSO4. The solvent was removed in vacuo to obtain 518 mg 2-ethoxy-4-trifluoromethoxy-benzoic acid.

reactant | 2-Ethoxy-4-trifluoromethoxy-benzoic acid methyl ester | 590 mg | COC(C1=C(C=C(C=C1)OC(F)(F)F)OCC)=O | C11H11F3O4
reactant | lithium hydroxide | 367 mg | [OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 2-ethoxy-4-trifluoromethoxy-benzoic acid | 518 mg | C(C)OC1=C(C(=O)O)C=CC(=C1)OC(F)(F)F | C10H9F3O4
